US08097759B2
(1) 2-Benzyl-5-(4-benzylpiperidine-1-carbonyl)-N-[3,5-bis(trifluoromethyl)-phenyl]benzamide
Using 4-benzyl-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid and 4-benzylpiperidine as the raw materials, the same operation as the example 84(3) gave the title compound.

reactant | 4-benzyl-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H15F6NO3
reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | 2-Benzyl-5-(4-benzylpiperidine-1-carbonyl)-N-[3,5-bis(trifluoromethyl)-phenyl]benzamide | Yield: 76.7% | C(C1=CC=CC=C1)C1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(=O)N1CCC(CC1)CC1=CC=CC=C1 | C35H30F6N2O2
